US08258141B2
VA1: 3-[3-((R)-1-Benzyl-pyrrolidin-3-yl)-ureido]-benzenesulfonamide
A solution of (R)—N-benzyl-3-aminopyrrolidine (14.9 g, 0.084 mol) in methanol (100 mL) is added to a suspension of (3-sulfamoyl-phenyl)-carbamic acid phenyl ester (25 g, 0.084 mol). The resulting pale orange solution is stirred at mild reflux (DrySyn @ 80° C.) for two hours, then allowed to cool to room temperature, before the volatile components are removed under reduced pressure. The orange syrup is purified by flash column chromatography (silica; DCM/methanol 10:1) to give a beige foamed solid.

reactant | (R)—N-benzyl-3-aminopyrrolidine | 0.084 mol, 14.9 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
reactant | (3-sulfamoyl-phenyl)-carbamic acid phenyl ester | 0.084 mol, 25 g | C1(=CC=CC=C1)OC(NC1=CC(=CC=C1)S(N)(=O)=O)=O | C13H12N2O4S
solvent | methanol | 100 mL | CO | CH4O
product | 3-[3-((R)-1-Benzyl-pyrrolidin-3-yl)-ureido]-benzenesulfonamide | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC(NC=1C=C(C=CC1)S(=O)(=O)N)=O | C18H22N4O3S
